US07041696B2
Preparation of 5-allyloxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride (5):
To a solution of 5-allyloxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester, 4, (7.28 g, 27 mmol) in MeOH is added thionyl chloride (4 mL, 54 mmol). The solution is stirred overnight and the solvent removed in vacuo to afford 4.25 g (95% yield) of the desired product as a dark yellow crystal. 1H-NMR (300 MHz, CDCl3): δ 11.47 (s, 1H), 8.15 (s, 1H), 5.81 (m, 1H), 5.23 (m, 2H), 4.55 (s, 1H), 3.85 (s, 3H), 2.88 (m, 1H), 2.59–2.42 (m, 2H), 2.24 (m, 1H), 1.81 (m, 1H). 13C-NMR (75.5 MHz, CDCl3): δ 170.0, 132.7, 132.3, 120.2, 119.6, 60.6, 60.2, 59.4, 58.9, 53.9, 36.6, 29.5, 29.2, 28.3. ESI MS 170.13 (M+H).

reactant | 5-allyloxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(C(CC1)OCC=C)C(=O)OC(C)(C)C | C14H23NO5
reactant | thionyl chloride | 54 mmol, 4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | MeOH | CO | CH4O
product | 5-allyloxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride | 4.25 g, 95% yield | Cl.COC(=O)C1NC(CC1)OCC=C | InChI=1S/C9H15NO3.ClH/c1-3-6-13-8-5-4-7(10-8)9(11)12-2;/h3,7-8,10H,1,4-6H2,2H3;1H
